US07074799B2
6. (4-tert-Butyl-phenyl)-[7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]-amine hydrochloride
Using procedures analogous to those described above (see, for example, Schemes 1 and 2), (4-tert-Butyl-phenyl)-[7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]-amide hydrochloride is prepared from 7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ol in two steps. Mass spec. 422.2.

reactant | (4-tert-Butyl-phenyl)-[7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]-amide hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)[N-]C1=NC=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F
reactant | 7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ol | FC(C=1C(=NC=CC1)C1=CC=C2C(=NC=NC2=C1)O)(F)F | C14H8F3N3O
product | (4-tert-Butyl-phenyl)-[7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-yl]-amine hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)NC1=NC=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F | InChI=1S/C24H21F3N4.ClH/c1-23(2,3)16-7-9-17(10-8-16)31-22-18-11-6-15(13-20(18)29-14-30-22)21-19(24(25,26)27)5-4-12-28-21;/h4-14H,1-3H3,(H,29,30,31);1H
